US06825194B2
(b) (9S)-9-acetoxy-2-(butylamino)-9-ethyl-1-(3-methylbutyl)-1H,12H-pyrano[3″,4″:6′,7′]-indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13 (9H,15H)-dione
To a solution of (9S)-9-acetoxy-9-ethyl-1-(3-methylbutyl)-2-methylsulfinyl-1H,12H-pyrano[3″,4″:6′,7′]indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13(9H,15H)-dione (6.4 mg, 0.01 mmol) in 1,4-dioxane (1.0 ml) was added n-butylamine (30 μl, 0.3 mmol). The mixture was stirred at 100° C. for 5 hr, and then stirred at room temperature for 2 days. After concentrated under reduced pressure, the obtaining residue was purified by column chromatography (dichloromethane/acetone=10/1) to give the product (5.4 mg, 83%) as a yellow powder.

reactant | (9S)-9-acetoxy-9-ethyl-1-(3-methylbutyl)-2-methylsulfinyl-1H,12H-pyrano[3″,4″:6′,7′]indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13(9H,15H)-dione | 0.01 mmol, 6.4 mg | C(C)(=O)O[C@@]1(C(OCC=2C(N3CC=4C(=NC=5C=6C4N(C(=NC6C=CC5)S(=O)C)CCC(C)C)C3=CC21)=O)=O)CC | C29H30N4O6S
reactant | n-butylamine | 0.3 mmol, 30 μl | C(CCC)N | C4H11N
solvent | 1,4-dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
product | (9S)-9-acetoxy-2-(butylamino)-9-ethyl-1-(3-methylbutyl)-1H,12H-pyrano[3″,4″:6′,7′]-indolizino[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-10,13 (9H,15H)-dione | 5.4 mg, 83% | C(C)(=O)O[C@@]1(C(OCC=2C(N3CC=4C(=NC=5C=6C4N(C(=NC6C=CC5)NCCCC)CCC(C)C)C3=CC21)=O)=O)CC | C32H37N5O5
